US08217032B2
[2-(4-Fluoro-2-methylsulfanyl-phenyl)-6-methoxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone
Charge a flask with trifluoromethanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester (580 mg, 1.1 mmol), 2-methylsulfanyl-4-fluoro-benzene boronic acid (400 mg, 2.2 mmol) and cesium fluoride (830 mg, 5.4 mmol) and flush with nitrogen. In a separate flask, add palladium acetate (24 mg, 0.11 mmol) and tricyclohexylphosphine (62 mg, 0.22 mmol) and suspend in dry degassed acetonitrile (10 mL). Socinate under nitrogen for 10 minutes and add the catalyst solution to the solids and plunge into an 80° C. oil bath for 30 minutes. Cool to room temperature, filter through celite and concentrate in vacuo. Purify the residue by silica gel chromatography (0 to 3% methanol in methylene chloride) to yield 476 mg (83%) of the title compound: mass spectrum (ion spray) m/z=530.2 (M+H).

reactant | trifluoromethanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester | 1.1 mmol, 580 mg | COC=1C=C2C=CC(=C(C2=CC1)C(C1=CC=C(C=C1)OCCN1CCCCC1)=O)OS(=O)(=O)C(F)(F)F | C26H26F3NO6S
reactant | 2-methylsulfanyl-4-fluoro-benzene boronic acid | 2.2 mmol, 400 mg | CSC1=C(C=CC(=C1)F)B(O)O | C7H8BFO2S
reactant | cesium fluoride | 5.4 mmol, 830 mg | [F-].[Cs+]
reactant | tricyclohexylphosphine | 0.22 mmol, 62 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
catalyst | palladium acetate | 0.11 mmol, 24 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | [2-(4-Fluoro-2-methylsulfanyl-phenyl)-6-methoxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 476 mg, 83% | FC1=CC(=C(C=C1)C1=C(C2=CC=C(C=C2C=C1)OC)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)SC | C32H32FNO3S
